US05281571
To a solution of 40.0 g (0.256 moles) 2',4'-difluoroacetophenone (commercially available) in 400 mL diethyl ether at 0° C. was added 40 mL (0.405 moles) ethyl trifluoroacetate. At 5° C., 80 mL of a 25% wt. sodium methoxide in methanol (0.37 moles) were added over 15 minutes. The reaction mixture was stirred overnight at 25° C. The mixture was poured over 300 mL ice water and 21.3 mL (0.37 moles) acetic acid were added. The organic layer was washed two times with water, dried over anhydrous MgSO4, and concentrated in vacuo to give 62.85 g (97%) 4-(2,4-difluorophenyl)-1,1,1-trifluoro-4-hydroxy-3-buten-2-one as a yellow oil; 1HNMR (CDCl3) ppm: 6.61 (s,1H), 6.87 (m,1H), 6.97 (m,1H), 7.97 (m,1H).

reactant | 2',4'-difluoroacetophenone | 0.256 moles, 40.0 g | FC1=C(C=CC(=C1)F)C(C)=O | C8H6F2O
reactant | ethyl trifluoroacetate | 0.405 moles, 40 mL | FC(C(=O)OCC)(F)F | C4H5F3O2
reactant | sodium methoxide | C[O-].[Na+]
reactant | methanol | 0.37 moles | CO | CH4O
reactant | acetic acid | 0.37 moles, 21.3 mL | C(C)(=O)O | C2H4O2
solvent | diethyl ether | 400 mL | C(C)OCC | C4H10O
product | 4-(2,4-difluorophenyl)-1,1,1-trifluoro-4-hydroxy-3-buten-2-one | 62.85 g, 97% | FC1=C(C=CC(=C1)F)C(=CC(C(F)(F)F)=O)O | C10H5F5O2
